US06673818B2
To a mixture of phenylacetic acid (4.2 g, 0.030 mol) and crude 2-bromo-1-[3,5-difluoro-4-(methylthio)-phenyl]ethanone (8.6 g, 0.030 mol) in anhydrous acetonitrile (100 mL) was added diisopropylethylamine (3.9 g, 0.030 mol). The reaction mixture was stirred for one hour at room temperature and 1,8-diazabicyclo[5.4.0]undec-7-ene (5.0 g, 0.032 mol) was added. After 2 hours the mixture was poured into dilute HCl and extracted with dichloromethane (1×200 mL, 2×75 mL). The combined extracts were dried using magnesium sulfate, and concentrated. The residue was treated with anhydrous acetonitrile (100 mL) and DBU (10.0 g, 0.065 mol), stirring at room temperature for 3 hours. The mixture was poured into dilute HCl and extracted with dichloromethane (1×200 mL, 2×50 mL). The combined extracts were dried using magnesium sulfate, and concentrated. Purification by silica gel chromatography using 5% dichloromethane/10% ethyl acetate in hexanes afforded 4-[3,5-difluoro-4-(methylthio)-phenyl]-3-phenylfuran-2(5H)-one as an orange liquid (7.2 g, 76%). 1H NMR (CDCl3/400 MHz) 7.37-7.41 (m, 5H), 6.97 (m, 2H 5.09 (s, 2H), 2.48 (s, 3H). ESHRMS m/z 319.0601 (M+H+, Calcd 319.0604). Anal. Calcd for C17H12F2O2S: C, 64.14; H, 3.80; Found: C, 63.56; H, 3.54.

reactant | phenylacetic acid | 0.030 mol, 4.2 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 2-bromo-1-[3,5-difluoro-4-(methylthio)-phenyl]ethanone | 0.030 mol, 8.6 g | BrCC(=O)C1=CC(=C(C(=C1)F)SC)F | C9H7BrF2OS
reactant | diisopropylethylamine | 0.030 mol, 3.9 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.032 mol, 5.0 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | HCl | Cl | ClH
reactant | DBU | 0.065 mol, 10.0 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-[3,5-difluoro-4-(methylthio)-phenyl]-3-phenylfuran-2(5H)-one | 7.2 g, 76% | FC=1C=C(C=C(C1SC)F)C1=C(C(OC1)=O)C1=CC=CC=C1 | C17H12F2O2S
